US03950427
(E)-4-(4-cyclopentyl-phenyl)-3-pentene-2-one was prepared analogous to Example 52 from 4'-cyclopentyl-acetophenone and ethyl (E)-3-ethoxy-crotonate with a yield of 51% of theory. B.p. 143°-147°C at 0.05 mm Hg. M.p. 33°-33.5°C (from methanol).

reactant | 4'-cyclopentyl-acetophenone | C1(CCCC1)C1=CC=C(C=C1)C(C)=O | C13H16O
reactant | ethyl (E)-3-ethoxy-crotonate | C(C)O/C(=C/C(=O)OCC)/C | C8H14O3
solvent | methanol | CO | CH4O
product | (E)-4-(4-cyclopentyl-phenyl)-3-pentene-2-one | yield of 51% | C1(CCCC1)C1=CC=C(C=C1)/C(=C/C(C)=O)/C | C16H20O
